US05945426
4-(4-Chlorobutoxy)-2-(4-fluorophenyl)-6-methylpyridine hydrochloride
A mixture of 2.5 g of 2-(4-fluorophenyl)-4-hydroxy-6-methylpyridine, 3.16 g of 1-bromo-4-chlorobutane, 1.7 g of silver carbonate, and 100 ml of toluene was refluxed for 40 hours. This reaction mixture was filtered to remove insolubles and the filtrate was concentrated. The residue was purified with silica gel column chromatography to provide 1.45 g of the title compound as white crystals.

reactant | 2-(4-fluorophenyl)-4-hydroxy-6-methylpyridine | 2.5 g | FC1=CC=C(C=C1)C1=NC(=CC(=C1)O)C | C12H10FNO
reactant | 1-bromo-4-chlorobutane | 3.16 g | BrCCCCCl | C4H8BrCl
catalyst | silver carbonate | 1.7 g | C([O-])([O-])=O.[Ag+2]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Chlorobutoxy)-2-(4-fluorophenyl)-6-methylpyridine hydrochloride | 1.45 g | Cl.ClCCCCOC1=CC(=NC(=C1)C)C1=CC=C(C=C1)F | InChI=1S/C16H17ClFNO.ClH/c1-12-10-15(20-9-3-2-8-17)11-16(19-12)13-4-6-14(18)7-5-13;/h4-7,10-11H,2-3,8-9H2,1H3;1H
